US09102688B2
N-Quinolin-8-yl-3-trifluoromethoxy-benzenesulfonamide (Example Compound 38)
In the similar fashion using route 14 general procedure 27, 8-aminoquinoline (100 mg, 0.69 mmol), 3-trifluoromethoxybenzenesulfonyl chloride (200 mg, 0.69 mmol) and DMAP (cat.) gave the title compound (150 mg, 60%) after purification by column chromatography with DCM as the eluent.

reactant | 8-aminoquinoline | 0.69 mmol, 100 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | 3-trifluoromethoxybenzenesulfonyl chloride | 0.69 mmol, 200 mg | FC(OC=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-Quinolin-8-yl-3-trifluoromethoxy-benzenesulfonamide | 150 mg, 60% | N1=CC=CC2=CC=CC(=C12)NS(=O)(=O)C1=CC(=CC=C1)OC(F)(F)F | C16H11F3N2O3S
